US07553969B1
To a solution of acetyl chloride (22.6 ml, 299 mmol) in diethyl ether (11), sodium formate (30.6 g, 450 mmol) was added under cooling with ice and stirred at room temperature for 23 hours. The reaction mixture was filtered and evaporated to remove the solvent. The thus obtained residue was added dropwise to a solution of H-Tyr(3-tBu)-OMe (22.2 g, 83.8 mmol) in methylene chloride (500 ml) under cooling with ice, mixed with TEA (46.7 ml, 335 mmol) and stirred at room temperature for 2 hours. The reaction mixture was mixed with saturated aqueous NaHCO3 and extracted with chloroform. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated to remove the solvent under reduced pressure. The thus obtained residue was subjected to silica gel column chromatography (developing solvent: n-hexane:ethyl acetate=1:1), giving N-formyl-Tyr(3-tBu)-OMe (23.8 g, 100%).

reactant | acetyl chloride | 299 mmol, 22.6 ml | C(C)(=O)Cl | C2H3ClO
reactant | sodium formate | 450 mmol, 30.6 g | C(=O)[O-].[Na+]
reactant | H-Tyr(3-tBu)-OMe | 83.8 mmol, 22.2 g | N[C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)OC | C14H21NO3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | N-formyl-Tyr(3-tBu)-OMe | 23.8 g, 100% | N([C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)OC)C=O | C15H21NO4
